datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][O:36][H:37]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:22][O:35][O:36][H:37],58.19944
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4][O:5][H:16])([H:14])[H:15])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])[H:10].[C:3]([O:4][O:5][H:16])([H:14])[H:15],99.1608
[O:0]([C:1]1([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])[H:6].[O:12][H:13]>>[H:6][O:12][H:13].[O:0][C:1]1([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11],7.100248
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:16])([H:17])[H:18])([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19],95.1274
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:16][H:29],18.706664
[C:0]([N:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5]>>[C:0](=[N:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3],160.7702
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:18][C:17]([H:19])([H:20])[H:21],20.92
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28])[H:10])([H:8])[H:9],35.8569
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:21])[H:22])[H:20])([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:18])[H:5].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:21])[H:22])[H:20])[H:19])[H:17])([H:15])[H:16],5.8576
[N:0]=[N:1][H:2].[O:3]>>[H:2][O:3].[N:0]#[N:1],-3.72376
[C:0]([C:1]([C:2](=[O:3])[O:4][C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:20])([H:21])[H:22])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][H:14])=[O:4])([H:12])[H:13])([H:9])([H:10])[H:11].[C:5](=[C:6]([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:20])([H:21])[H:22],167.36
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])([H:29])([H:30])[H:31]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:26]([C:25]([H:29])([H:30])[H:31])([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37],30.9616
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22],-19.2464
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]1([H:14])([H:15])[C:8]([H:16])([H:17])[C:9]2([H:18])[C:10]([H:19])([H:20])[C:11]([H:21])([H:22])[C:12]1([H:23])[C:13]2([H:24])[H:25]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:14])[H:4].[C:7]1([H:15])[C:8]([H:16])([H:17])[C:9]2([H:18])[C:10]([H:19])([H:20])[C:11]([H:21])([H:22])[C:12]1([H:23])[C:13]2([H:24])[H:25],25.9408
